US07652032B2
2-(phenylmethyl)imidazo[1,2-α]pyridin-8-yl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
A solution of 0.108 g (1.02 mM) of sodium carbonate in 2 ml of water, 0.055 g (0.0678 mM) of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) dichloromethane and 0.277 g (1.35 mM) of 4,4,5,5-tetramethyl-2-phenyl-1,2,3-dioxaborolane are added to a solution of 0.31 g (0.678 mM) of 2-chloromethylimidazo[1,2-α]pyridin-8-yl 2,3,4-tri-O-acetyl-5-thio-D-xylopyranoside obtained according to example 31, in 4 ml of DME. The reaction mixture is microwave-heated at 120° C. for 30 minutes. After cooling, water is added and the resulting mixture is extracted with ethyl acetate. The organic phase is dried over sodium sulfate and is concentrated under reduced pressure. The evaporation residue is purified by silica gel chromatography, elution being carried out with a dichloromethane/methanol mixture (97/3; v/v), and then crystallized from ether. The expected product is obtained in the form of a white solid with a yield of 42%.

reactant | sodium carbonate | 1.02 mM, 0.108 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chloromethylimidazo[1,2-α]pyridin-8-yl 2,3,4-tri-O-acetyl-5-thio-D-xylopyranoside | 0.678 mM, 0.31 g | C(C)(=O)O[C@H]1C(OC=2C=3N(C=CC2)C=C(N3)CCl)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H21ClN2O7S
reactant | DME | 4 ml | COCCOC | C4H10O2
solvent | water | 2 ml | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.0678 mM, 0.055 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(phenylmethyl)imidazo[1,2-α]pyridin-8-yl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 42% | C(C)(=O)O[C@H]1[C@H](OC=2C=3N(C=CC2)C=C(N3)CC3=CC=CC=C3)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C25H26N2O7S
